US06268445B1
Preparation of (tetrafluoro-1,4-phenylene)-bis-(di(pentafluorophenyl)borane) ((C6F6)2 B—C6F4—B (C6F5)2)
Into a thick-walled flask containing a J. Young valve, 1,4-C6F4(SnMe3)2 (0.60 g, 1.26 mmol) and (C6F5)2BCl (2.87 g, 7.56 mmol) were added. Toluene (40 mL) was added, the flask was evacuated to 0.1 torr, and the J. Young valve was closed. The flask was heated at 140° C. for 72 h. The solvent was removed in vacuo, and the residue washed with pentane (4×20 mL). The resulting light yellow solid was exposed to dynamic vacuum (10−5 torr) for 12 h, giving the desired product as a microcrystalline pale yellow solid (0.75 g, 71 percent).

reactant | (C6F5)2BCl | 7.56 mmol, 2.87 g | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)Cl | C12BClF10
solvent | Toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (tetrafluoro-1,4-phenylene)-bis-(di(pentafluorophenyl)borane) | 0.75 g, 71 percent | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F | C30B2F24
